US07812160B2
A solution of methyl {4-(dimethylamino)-6-morpholin-4-yl-2-[4-(2-naphthoylamino)benzyl]pyrimidin-5-yl}acetate (0.096 g, 0.18 mmol) in MeOH (2 mL) at room temperature was treated with 1N NaOH (1 mL) and the resulting mixture was heated at 60° C. for 5 hours. After cooling to room temperature, the volatiles were removed under reduced pressure and the remaining aqueous layer was washed with Et2O and acidified with 1N HCl. The separated solids were collected by suction, rinsed with water, and dried under vacuum to give {4-(dimethylamino)-6-morpholin-4-yl-2-[4-(2-naphthoylamino)benzyl]pyrimidin-5-yl}acetic acid (0.059 g, 64% yield) as a white solid.

reactant | methyl {4-(dimethylamino)-6-morpholin-4-yl-2-[4-(2-naphthoylamino)benzyl]pyrimidin-5-yl}acetate | 0.18 mmol, 0.096 g | CN(C1=NC(=NC(=C1CC(=O)OC)N1CCOCC1)CC1=CC=C(C=C1)NC(=O)C1=CC2=CC=CC=C2C=C1)C | C31H33N5O4
reactant | NaOH | 1N, 1 mL | [OH-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
product | {4-(dimethylamino)-6-morpholin-4-yl-2-[4-(2-naphthoylamino)benzyl]pyrimidin-5-yl}acetic acid | 0.059 g, 64% yield | CN(C1=NC(=NC(=C1CC(=O)O)N1CCOCC1)CC1=CC=C(C=C1)NC(=O)C1=CC2=CC=CC=C2C=C1)C | C30H31N5O4
